US04987132
Quinoline-3-carbaldehyde (1.57 g ) and 1.21 g of L-cysteine were dissolved in 50 ml of 50% ethanol, and the solution was stirred at room temperature for 1 hour. The resultant crystalline precipitate was collected by suction filtration, washed with 50% ethanol and dried to give 1.95 g of 2-(3-quinolyl)thiazolidine-4-carboxylic acid. Melting point 173°-175° C. (decomposition).

reactant | Quinoline-3-carbaldehyde | 1.57 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | L-cysteine | 1.21 g | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(3-quinolyl)thiazolidine-4-carboxylic acid | 1.95 g | N1=CC(=CC2=CC=CC=C12)C1SCC(N1)C(=O)O | C13H12N2O2S
